US07157464B2
Synthesis of 2-(3-Amino-4-bromo-5-phenyl-pyrazol-1-yl)-1-[4-(4-fluoro-phenyl)-piperazin-1-yl]-ethanone
Protocol T was followed using 4-Bromo-5-phenyl-1H-pyrazol-3-ylamine, K2CO3, 2-Chloro-1-[4-(4-fluoro-phenyl)-piperazin-1-yl]-ethanone and DMF. Column chromatography using a solvent mixture (hexane/ethyl acetate=3/7) afforded the title compound as yellow solid. 1H NMR (400 MHz, CDCl3): 7.74–7.78 (m, 2H), 7.24–7.36 (m, 3H), 6.86–6.92 (m, 2H), 6.74–6.78 (m, 2H), 4.9 (s, 2H), 4.22 (s, 2H), 3.64–3.74 (m, 4H), 2.86–3.04 (m, 4H). 13C NMR (400 MHz, CDCl3): 164, 146.2, 144.8, 128, 126.8, 118, 114.8, 60, 50.2, 50, 48.8, 46, 42, 20.

reactant | 4-Bromo-5-phenyl-1H-pyrazol-3-ylamine | BrC=1C(=NNC1C1=CC=CC=C1)N | C9H8BrN3
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-Chloro-1-[4-(4-fluoro-phenyl)-piperazin-1-yl]-ethanone | ClCC(=O)N1CCN(CC1)C1=CC=C(C=C1)F | C12H14ClFN2O
reactant | DMF | CN(C)C=O | C3H7NO
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 2-(3-Amino-4-bromo-5-phenyl-pyrazol-1-yl)-1-[4-(4-fluoro-phenyl)-piperazin-1-yl]-ethanone | NC1=NN(C(=C1Br)C1=CC=CC=C1)CC(=O)N1CCN(CC1)C1=CC=C(C=C1)F | C21H21BrFN5O
